US07625903B2
2-[(5-Fluoro-2-{[4-(hydroxymethyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide
To a solution of ethyl 4-({5-fluoro-4-[(2-{[(1methylethyl)amino]carbonyl}phenyl)amino]-2-pyrimidinyl}amino)benzoate (1.47 g, 3.36 mmol) in THF (80 mL) was slowly added a solution of LiAlH4 (1.0M solution, 3.0 eq) at 0° C. After the addition was complete, the reaction mixture was slowly warmed up to room temperature and stirred for 16 h. The reaction mixture was quenched with 15 mL of 1.0 M Rochelle's solution. The water phase was extracted by EtOAc (2×30 mL) and the combined organic phases were washed by brine (3×30 mL) then dried over Na2SO4. The solvent was evaporated to produce a solid, which was washed with hexane (3×30 mL), then dried in vacuo to give the desired product. (1.15, 87% yield). MS: M(C21H22FN5O2)=395.44, (M+H)+=396

reactant | ethyl 4-({5-fluoro-4-[(2-{[(1methylethyl)amino]carbonyl}phenyl)amino]-2-pyrimidinyl}amino)benzoate | 3.36 mmol, 1.47 g | FC=1C(=NC(=NC1)NC1=CC=C(C(=O)OCC)C=C1)NC1=C(C=CC=C1)C(=O)NC(C)C | C23H24FN5O3
reactant | LiAlH4 | 1.0M, 3.0 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-[(5-Fluoro-2-{[4-(hydroxymethyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide | 87% yield | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)CO)NC1=C(C(=O)NC(C)C)C=CC=C1 | C21H22FN5O2
